US07074809B2
To 5-fluoro-pyridine-2-carboxylic acid ethyl ester (94 mg, 0.556 mmol) in dichloromethane (4.0 mL), 1 M DIBAL in toluene (1.23 mL, 1.23 mmol) was added at room temperature and the mixture was stirred for 30 min. The reaction mixture was quenched with 2 M sodium carbonate and extracted with dichloromethane. The dichloromethane was dried and concentrated to give 39 mg (54.7%) of crude 5-fluoro-pyridine-2-carbaldehyde which could be used for the next step reaction without further purification. GC-MS (M+): 125

reactant | 5-fluoro-pyridine-2-carboxylic acid ethyl ester | 0.556 mmol, 94 mg | C(C)OC(=O)C1=NC=C(C=C1)F | C8H8FNO2
reactant | toluene | 1.23 mmol, 1.23 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
solvent | DIBAL | 1 M | CC(C)C[AlH]CC(C)C
product | 5-fluoro-pyridine-2-carbaldehyde | 39 mg, 54.7% | FC=1C=CC(=NC1)C=O | C6H4FNO
